US07067518B2
(2R)-2-Amino-1-[4-(2-methoxy-phenyl)-piperazin-1-yl]-3-pyridin-3-yl-propan-1-one
To a solution of (R)-{2-[4-(2-Methoxy-phenyl)-piperazin-1-yl]-2-oxo-1-pyridin-3-ylmethyl-ethyl}-carbamic acid tert-butyl ester (7.54 g.; 17.1 mmol) from Example 1 in THF (60 mL) at 0° C. was added HCl (4M/Dioxane) (70 mL; 0.28 mol). The mixture was stirred at ambient temperature for 3 hours, and the solvent removed in vacuo. A small portion of the trihydrochloride residue was retained for analytical purposes. The remainder of the residue was dissolved in water (70 mL), washed with ether (40 mL), and the ether layer discarded. The aqueous layer was rendered basic (pH 9–10) with saturated aqueous Na2CO3, and the product extracted into dichloromethane (3×60 mL). The combined dichloromethane layers were washed with brine, dried over MgSO4, filtered, and the solvent removed in vacuo to afford the free base of the title compound as a clear oil (5.8 g., 100%). The analytical sample as the trihydrochloride salt was recrystallized from ethanol/ether to afford a white crystalline powder, m.p. >240° C.; MS (+) ESI, [M+H]+ @ m/z 341; 1H NMR, 400 MHz, DMSO-d6. Analysis for C19H24N4O2.3HCl Calculated: C, 50.73; H, 6.05; N, 12.46 Found: C, 50.89; H, 6.03; N, 12.41.

reactant | (R)-{2-[4-(2-Methoxy-phenyl)-piperazin-1-yl]-2-oxo-1-pyridin-3-ylmethyl-ethyl}-carbamic acid tert-butyl ester | 17.1 mmol, 7.54 g | C(C)(C)(C)OC(N[C@@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)CC=1C=NC=CC1)=O | C24H32N4O4
reactant | HCl | 0.28 mol, 4M, 70 mL | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (2R)-2-Amino-1-[4-(2-methoxy-phenyl)-piperazin-1-yl]-3-pyridin-3-yl-propan-1-one | 5.8 g, 100% | N[C@@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)CC=1C=NC=CC1 | C19H24N4O2
